US06992083B2
To a stirred solution of 130 g (4.24 mmol) [4-methoxy-7-(tetrahydro-pyran-4-yl)-benzooxazol-2-yl]-carbamic acid methyl ester in 90 ml dioxane and 30 ml ethylene glycol was added 90 ml of a 5 N aq. sodium hydroxide solution, and the mixture was heated at 100° C. for 16 h. After cooling to room temperature, the mixture was poured onto water and extracted four times with ethyl acetate. The combined organic phases were dried over sodium sulphate and concentrated in vacuo. Flash chromatography (dichloromethane then 5/95 methanol/dichloromethane) afforded 0.78 g (74%) 4-methoxy-7-(tetrahydro-pyran-4-yl)-benzooxazol-2-ylamine as a brown solid. ES-MS m/e (%): 249 (M+H+, 100).

reactant | [4-methoxy-7-(tetrahydro-pyran-4-yl)-benzooxazol-2-yl]-carbamic acid methyl ester | 4.24 mmol, 130 g | COC(NC=1OC2=C(N1)C(=CC=C2C2CCOCC2)OC)=O | C15H18N2O5
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | dioxane | 90 ml | O1CCOCC1 | C4H8O2
solvent | ethylene glycol | 30 ml | C(CO)O | C2H6O2
product | 4-methoxy-7-(tetrahydro-pyran-4-yl)-benzooxazol-2-ylamine | 0.78 g, 74% | COC1=CC=C(C2=C1N=C(O2)N)C2CCOCC2 | C13H16N2O3
